US04045499
57 g (0.25 mol) of 2,2-bis-(4-hydroxyphenyl)-propane, 10 g of an acid-activated fuller's earth and 84 g (0.75 mol) of diisobutylene are stirred in an autoclave for 8 hours at around 150° C. The catalyst is then filtered off and the reaction mixture subjected to fractional distillation, giving 25.2 g (44% of the theoretical) of 5-hydroxy-1,1,3-trimethyl-3-neopentyl indane.

reactant | 2,2-bis-(4-hydroxyphenyl)-propane | 0.25 mol, 57 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | diisobutylene | 0.75 mol, 84 g | CC(=C)CC(C)(C)C | C8H16
product | 5-hydroxy-1,1,3-trimethyl-3-neopentyl indane | OC=1C=C2C(CC(C2=CC1)(C)C)(CC(C)(C)C)C | C17H26O
